US08461328B2
A solution of 1-benzyl-5,5-difluoro-4-hydroxy-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid ethyl ester was (59.46 g, 0.2 mol, prepared according to EP2123651 A1) in ethyl acetate (600 ml) was degassed and charged with acetaldehyde (13.22 g, 0.3 mol) and 10% palladium on activated carbon (6 g). This mixture was allowed to stir for three hours under an atmosphere then filtered through Celite, washed with copious methanol and concentrated under vacuum to give 1-ethyl-5,5-difluoro-4-hydroxy-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid ethyl ester that was immediately taken up into a 3N solution of hydrochloric acid (470 ml) and heated to reflux for four hours. Upon completion, the reaction was cooled to room temperature and concentrated under vacuum to yield 43.5 g 1-ethyl-3,3-difluoro-4,4-dihydroxy-piperidinium as a pale yellow powder (100%) LCMS (Method F): RT=0.13 min, m+H=182.0 1H NMR (400 MHz, DMSO) δ 10.84 (s, 1H), 6.93 (s, 2H), 3.82 (s, 1H), 3.60-3.32 (m, 2H), 3.15 (d, J=41.5, 2H), 3.09 (s, 1H), 2.07 (dd, J=30.7, 17.4, 2H), 1.25 (t, J=7.2, 3H).

reactant | 1-benzyl-5,5-difluoro-4-hydroxy-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1CN(CC(C1O)(F)F)CC1=CC=CC=C1 | C15H17F2NO3
reactant | acetaldehyde | 0.3 mol, 13.22 g | C(C)=O | C2H4O
solvent | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on activated carbon | 6 g | [Pd] | Pd
product | 1-ethyl-5,5-difluoro-4-hydroxy-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1CN(CC(C1O)(F)F)CC | C10H15F2NO3
